US06503949B1
3-{4-[(1,4-Dioxaspiro[4.5]dec-8-ylamino)methyl]benzoylamino}propionic Acid Ethyl Ester
1.2 g Ethyl 3-(4-aminomethylbenzoylamino)propanoate hydrochloride (4.18 mmol) was mixed with 20 mL 1,2-dichloroethane and 6 mL saturated K2CO3 by vigorous stirring. The phases were separated and the aqueous phase was extracted with another 20 mL 1,2-dichloroethane. 240 μL HOAc was added to the combined 1,2-dichloroethane phase followed by 0.691 g 1,4-dioxaspiro[4.5]decan-8-one (4.42 mmol). 1.272 g NaBH(OAc)3 (6 mmol) was added and the reaction was stirred for 16 hours at 25° C. The reaction volume was reduced on a rotary evaporator to about 20 mL and then poured into a mixture of 60 mL H2O and 10 mL sat. K2CO3. The phases were separated and the aqueous phase was extracted twice with 40 mL 1,2-dichloroethane. The combined 1,2-dichloroethane fractions were dried over MgSO4 and evaporated to afford the title compound. The crude product was used in the next step without further purification.

reactant | Ethyl 3-(4-aminomethylbenzoylamino)propanoate hydrochloride | 4.18 mmol, 1.2 g | Cl.NCC1=CC=C(C(=O)NCCC(=O)OCC)C=C1
reactant | K2CO3 | 6 mL | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,4-dioxaspiro[4.5]decan-8-one | 4.42 mmol, 0.691 g | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | NaBH(OAc)3 | 6 mmol, 1.272 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | 3-{4-[(1,4-Dioxaspiro[4.5]dec-8-ylamino)methyl]benzoylamino}propionic Acid Ethyl Ester | C(C)OC(CCNC(C1=CC=C(C=C1)CNC1CCC2(OCCO2)CC1)=O)=O | C21H30N2O5
